US06875884B1
To a mixture of 4-[[3-(4-bromophenylureido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid (20 mg, 0.041 mmol) and benzenesulfonamide (7.0 mg, 0.045 mmol) in CH2Cl2 (1 ml) were added WSC.HCl (8.6 mg, 0.045 mmol) and DMAP (5.5 mg, 0.045 mmol), and the mixture was stirred at RT for 18 h. The reaction mixture was purified by preparative normal phase HPLC using linear gradients of (A) chloroform and (B) methanol (2-4% B, in 0-2 min; 4-5% B, in 2-6 min; 5% B, in 6-12 min) at a flow rate of 12 ml/min. Fractions containing the major peak were pooled and concentrated to afford 3-[[3-(4-bromophenylureido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]-1-[(phenylsulfonyl)carbamoyl]propane (5.4 mg, 21%): MS(ES+) m/e 627 [M+H]+; 1H NMR (400 MHz, CDCl3) δ 8.27 (s, 1H), 8.05 (m, 2H), 7.50 (m, 3H), 7.44 (d, J=8.8 Hz, 2H), 7.31 (d, J=9.0 Hz, 2H), 7.23 (m, 3H), 7.15 (d, J=7.0 Hz, 1H), 7.02 (m, 1H), 6.92 (m, 1H), 4.72 (m, 1H), 3.73 (m, 1H), 3.58 (m, 1H), 3.21 (m, 1H), 2.96 (m, 1H), 2.79-2.65 (m, 5H), 2.57 (m, 1H), 2.17 (m, 1H), 2.03 (m, 1H), 1.94-1.66 (m, 4H).

reactant | 4-[[3-(4-bromophenylureido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]butanoic acid | 0.041 mmol, 20 mg | BrC1=CC=C(C=C1)NC(NCCCN(CCCC(=O)O)C1CCCC2=CC=CC=C12)=O | C24H30BrN3O3
reactant | benzenesulfonamide | 0.045 mmol, 7.0 mg | C1(=CC=CC=C1)S(=O)(=O)N | C6H7NO2S
reactant | WSC.HCl | 0.045 mmol, 8.6 mg | CCN=C=NCCCN(C)C.Cl
solvent | CH2Cl2 | 1 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.045 mmol, 5.5 mg | CN(C)C=1C=CN=CC1 | C7H10N2
product | 3-[[3-(4-bromophenylureido)propyl](1,2,3,4-tetrahydro-1-naphthyl)amino]-1-[(phenylsulfonyl)carbamoyl]propane | 5.4 mg, 21% | BrC1=CC=C(C=C1)NC(NCCCN(CCCC(NS(=O)(=O)C1=CC=CC=C1)=O)C1CCCC2=CC=CC=C12)=O | C30H35BrN4O4S
